US06339090B1
(4R)-4-(3,4-Difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [3-(3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-yl)-propyl]-amide
3-(3′,4′,5′,6′-Tetrahydro-2′H-[2,4′]bipyridinyl-1′-yl)-propylamine trihydrochoride was used in place of 2-[1-(3-amino-propyl)-piperidine-4-yl]-5-fluoro-benzonitrile dihydrochloride and (4R)-4-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid was used in place of (4R)-4-(3,4-difluorophenyl)-6-methoxymethyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid.

reactant | 3-(3′,4′,5′,6′-Tetrahydro-2′H-[2,4′]bipyridinyl-1′-yl)-propylamine trihydrochoride | Cl.Cl.Cl.N1=C(C=CC=C1)C1CCN(CC1)CCCN
reactant | (4R)-4-(3,4-difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid | FC=1C=C(C=CC1F)[C@H]1NC(NC(=C1C(=O)O)C)=O | C12H10F2N2O3
product | (4R)-4-(3,4-Difluorophenyl)-6-methyl-2-oxo-1,2,3,4-tetrahydro-pyrimidine-5-carboxylic acid [3-(3′,4′,5′,6′-tetrahydro-2′H-[2,4′]bipyridinyl-1′-yl)-propyl]-amide | N1=C(C=CC=C1)C1CCN(CC1)CCCNC(=O)C=1[C@H](NC(NC1C)=O)C1=CC(=C(C=C1)F)F | C25H29F2N5O2
